US08048909B2
Ethyl 1-[(4-methoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate
Using ethyl 5-phenyl-1H-pyrrole-3-carboxylate (250 mg), sodium hydride (60% in oil, 60 mg) and 4-methoxybenzenesulfonyl chloride (264 mg), a procedure as in Reference Example 4 was performed to give the title compound as a colorless oil (yield 433 mg, 97%).

reactant | ethyl 5-phenyl-1H-pyrrole-3-carboxylate | 250 mg | C1(=CC=CC=C1)C1=CC(=CN1)C(=O)OCC | C13H13NO2
reactant | sodium hydride | 60 mg | [H-].[Na+]
reactant | 4-methoxybenzenesulfonyl chloride | 264 mg | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
product | Ethyl 1-[(4-methoxyphenyl)sulfonyl]-5-phenyl-1H-pyrrole-3-carboxylate | yield 433 mg, 97% | COC1=CC=C(C=C1)S(=O)(=O)N1C=C(C=C1C1=CC=CC=C1)C(=O)OCC | C20H19NO5S
